US09079911B2
2-[(2-Ethoxyphenyl)carbonyl]-5-(4-methoxypyrimidin-2-yl)octahydropyrrolo[3,4-c]pyrrole
The title compound was prepared according to the procedure used for Example 15 utilizing 2-(4-methoxy-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole and 2-ethoxybenzoic acid. MS (ESI) mass calcd. for C20H24N4O3, 368.44; m/z found, 369.3 [M+H]+. 1H NMR (CDCl3): 8.07 (d, J=5.7 Hz, 1H), 7.37-7.28 (m, 2H), 6.99 (t, J=7.4 Hz, 1H), 6.91 (d, J=8.3 Hz, 1H), 6.02 (d, J=5.7 Hz, 1H), 4.07 (q, J=7.0 Hz, 2H), 4.01-3.85 (m, 5H), 3.84-3.70 (m, 2H), 3.65-3.45 (m, 3H), 3.34-3.22 (m, 1H), 3.16-2.92 (m, 2H), 1.35 (t, J=6.8 Hz, 3H).

reactant | 2-(4-methoxy-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole | COC1=NC(=NC=C1)N1CC2CNCC2C1 | C11H16N4O
reactant | 2-ethoxybenzoic acid | C(C)OC1=C(C(=O)O)C=CC=C1 | C9H10O3
product | 2-[(2-Ethoxyphenyl)carbonyl]-5-(4-methoxypyrimidin-2-yl)octahydropyrrolo[3,4-c]pyrrole | C(C)OC1=C(C=CC=C1)C(=O)N1CC2CN(CC2C1)C1=NC=CC(=N1)OC | C20H24N4O3
